US06114325
[2-(N-Octadecylcarbamoyl)phenyl]methyl-4-methylpiperazinecarboxylate hydrochloride (Compound 35)
4N Hydrochloric acid--ethyl acetate solution (0.28 ml) was added to a solution of [2-(N-octadecylcarbamoyl)phenyl]methyl-4-methylpiperazinecarboxylate (0.30 g) in ethyl acetate (4 ml) at room temperature. After being stirred for 10 minutes, the reaction mixture was concentrated. The residue was recrystallized from ethyl acetate-ethanol mixed solvent, thereby yielding 0.32 g of the aimed compound as white solid.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | [2-(N-octadecylcarbamoyl)phenyl]methyl-4-methylpiperazinecarboxylate | 0.30 g | C(CCCCCCCCCCCCCCCCC)NC(=O)C1=C(C=CC=C1)COC(=O)N1CCN(CC1)C | C32H55N3O3
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.28 ml | C(C)(=O)OCC | C4H8O2
product | [2-(N-Octadecylcarbamoyl)phenyl]methyl-4-methylpiperazinecarboxylate hydrochloride | 0.32 g | Cl.C(CCCCCCCCCCCCCCCCC)NC(=O)C1=C(C=CC=C1)COC(=O)N1CCN(CC1)C | InChI=1S/C32H55N3O3.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-20-23-33-31(36)30-22-19-18-21-29(30)28-38-32(37)35-26-24-34(2)25-27-35;/h18-19,21-22H,3-17,20,23-28H2,1-2H3,(H,33,36);1H
